* Z:\mnt\design.r\spice\examples\1739.asc
XU1 N003 N001 +V -V N002 +V 0 LT1794
V1 +V 0 5
V2 -V 0 -5
R1 N002 N001 10K
R2 N001 0 1K
V3 N003 0 sine(0 .1 1Meg)
.tran 3u
.lib LTC1.lib
.backanno
.end
